### PR TITLE
[Merged by Bors] - chore(CategoryTheory): redo `IsLimit.ofNatIso` with `RepresentableBy`.

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Limits/IsLimit.lean [hunk 1]
```diff
@@ -886,28 +890,29 @@ def isoUniqueCoconeMorphism {t : Cocone F} : IsColimit t ≅ ∀ s, Unique (t 
...
-  convert congrFun (congrFun (congrArg NatTrans.app h.inv_hom_id) s_pt) s_ι using 1
+  match s with
+  | .mk s_pt s_ι =>
+    congr
+    exact h.homEquiv.apply_symm_apply s_ι
 
 @[simp]
-theorem homOfCocone_cooneOfHom {Y : C} (f : X ⟶ Y) : homOfCocone h (coconeOfHom h f) = f :=
-  congrArg ULift.down (congrFun (congrFun (congrArg NatTrans.app h.hom_inv_id) Y) ⟨f⟩ :)
+theorem homOfCocone_cooneOfHom {Y : C} (f : X ⟶ Y) : homOfCocone h (coconeOfHom h f) = f := by
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/IsLimit.lean:914]: There is a typo in the name.

**Comment by joelriou** [comment]
Thanks!

bors d+

**Comment by erdOne** [comment]
bors merge
